US06020347
PREPARATION OF 4-PIPERIDINE CARBOXYLIC ACID INTERMEDIATES
To a solution of 0.88 g (8.6 mmol) of diisopropylethylamine in 30 ml of THF at 0° C. under N2 was added dropwise 3.52 ml (8.6 mmol) of a solution of 2.5N butyl lithium in hexanes. The solution was stirred for 15 minutes, cooled to -78° C. and treated with a solution of ethyl N-BOC-4-piperidinecarboxylate (2.0 g, 8.0 mmol) in 8 ml of THF. The solution was stirred for 1 hour and then 2.16 g (8.4 mmol) of n-butyl iodide was added and the reaction mixture was allowed to warm to room temperature and was stirred over night. The solution was diluted with 100 ml of EtOAc and washed with 1N HCl (3×20 ml); saturated sodium bicarbonate solution (2×20 mL) and brine (1×20 ml). The organic phase was dried over MgSO4, filtered and concentrated in vacuo. The residue was purified by flash chromatography over silica gel eluting with 10% EtOAc/hexanes to give the desired product. 1H-NMR (CDCl3, 400 MHz): 0.86 (t, 3H); 1.25 (t, 3H); 1.93 (s, 9H); 1.1-1.8 (m, 8H); 2.08 (bd, 2H); 2.85 9bt, 2H); 3.85 (bd, 2H); 4.16 (q, 2H).

reactant | diisopropylethylamine | 8.6 mmol, 0.88 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | butyl lithium | 2.5N | C(CCC)[Li]
reactant | ethyl N-BOC-4-piperidinecarboxylate | 8.0 mmol, 2.0 g | C(=O)(OC(C)(C)C)N1CCC(CC1)C(=O)OCC | C13H23NO4
reactant | n-butyl iodide | 8.4 mmol, 2.16 g | C(CCC)I | C4H9I
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
solvent | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
product | 4-PIPERIDINE CARBOXYLIC ACID | N1CCC(CC1)C(=O)O | C6H11NO2
